US06384041B1
B. Preparation of α-cyano-2-ethyl-1,3-dioxolane-2-propanoic Acid Ethyl Ester
In a 500 mL flask equipped with a reflux condenser and Dean-Stark trap were combined 40.0 g (218 mmol) of 2-cyano-4-oxohexanoic acid ethyl ester, 20.3 g (327 mmol) of ethylene glycol, 0.83 g (4.3 mmol) of p-toluenesulfonic acid monohydrate, and 100 mL of benzene. The reaction was heated to reflux until approximately 4.5 mL of water had been collected in the trap. The reaction was cooled to ambient temperature, washed with 50 mL of water, 50 mL of saturated δsodium bicarbonate solution and dried over sodium sulfate. The mixture was then concentrated to 46.0 g (93%) of α-cyano-2-ethyl-1,3-dioxolane-2-propanoic acid ethyl ester as a light tan oil. An NMR of the crude product showed less than 10% residual ketone remained and the crude product was used without further purification. nmr (500 MHz, CDCl3) δ0.92 (t, J=7.5 Hz, 3H), 1.31 (t, J=7.2 Hz, 3H), 1.64 (q, J=7.5 Hz, 2H), 2.29 (dd, J=6.8, 14.6 Hz, 1H), 2.41 (dd, J=6.3, 14.6 Hz, 1H), 3.59 (dd, J=6.3, 6.8 Hz, 1H), 3.59 (m, 4H), 4.24 (q, J=7.2 Hz, 2H).

reactant | 2-cyano-4-oxohexanoic acid ethyl ester | 218 mmol, 40.0 g | C(C)OC(C(CC(CC)=O)C#N)=O | C9H13NO3
reactant | ethylene glycol | 327 mmol, 20.3 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 4.3 mmol, 0.83 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | water | approximately 4.5 mL | O | H2O
product | α-cyano-2-ethyl-1,3-dioxolane-2-propanoic Acid Ethyl Ester | C(C)OC(C(CC1(OCCO1)CC)C#N)=O | C11H17NO4
